US07041690B2
According to reference (Synthesis 1984, 1048–1050), to a solution of 5-phenyloxazole (1.5 g, 10.3 mmol) in THF:diethyl ether (2:1, 50 mL) at −78° C. is added n-butyl lithium (7.1 mL of 1.6 M solution in hexanes, 11.4 mmol). The reaction is stirred at −78° C. for 30 minutes after which time a solution of N-methyl-2-pyridyl formamide (1.85 mL, 15.5 mmol) in THF (20 mL) is added. The reaction mixture is stirred at −78° C. for 30 min and then at 25° C. for 14 hours. It is quenched by addition of water and extracted with ethyl acetate. The combined organic layers are washed with 10% HCl, saturated sodium bicarbonate and brine before being dried over sodium sulfate and concentrated. The resulting oil is purified by column chromatography (5% ethyl acetate in hexanes) to afford 246 ng of 5-phenyl-1,3-oxazole-2-carbaldehyde.

reactant | 5-phenyloxazole | 10.3 mmol, 1.5 g | C1(=CC=CC=C1)C1=CN=CO1 | C9H7NO
reactant | n-butyl lithium | 11.4 mmol, 1.6 M, 7.1 mL | C(CCC)[Li]
reactant | N-methyl-2-pyridyl formamide | 15.5 mmol, 1.85 mL | CN(C=O)C1=NC=CC=C1 | C7H8N2O
solvent | THF diethyl ether | 50 mL | C1CCOC1.C(C)OCC
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 5-phenyl-1,3-oxazole-2-carbaldehyde | 246 ng | C1(=CC=CC=C1)C1=CN=C(O1)C=O | C10H7NO2
